US08314091B2
A: (S)-(4-Amino-3-fluorophenyl)(3-isopropylpiperazin-1-yl)methanone
1-Propanephosphonic acid cyclic anhydride (1.752 mmol. 1.043 ml, 1115 mg) was added to a solution of (S)-tert-butyl 2-isopropylpiperazine-1-carboxylate (0.876 mmol, 200 mg), 4-amino-3-fluorobenzoic acid (0.876 mmol, 136 mg) and triethylamine (1.752 mmol, 0.244 ml, 177 mg) in dichloromethane and stirred at room temperature for 2 hours. After this time, ethyl acetate (100 mL) was then added to the reaction. The organic mixture was washed with saturated sodium hydrogen carbonate, water, dried over sodium sulphate and concentrated under vacuum. The residue was then dissolved in dichloromethane (5 ml) and trifluoroacetic acid (17.52 mmol, 1997 mg) added. The resultant solution was allowed to stand at room temperature overnight. The reaction was concentrated under vacuum and purified by strong cation exchange chromatography to give the title compound (200 mg) as a clear oil. MS (ESI) m/z 266.3 [M+H]+

reactant | 1-Propanephosphonic acid cyclic anhydride | 1.752 mmol, 1.043 ml, 1115 mg | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | (S)-tert-butyl 2-isopropylpiperazine-1-carboxylate | 0.876 mmol, 200 mg | C(C)(C)[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C12H24N2O2
reactant | 4-amino-3-fluorobenzoic acid | 0.876 mmol, 136 mg | NC1=C(C=C(C(=O)O)C=C1)F | C7H6FNO2
reactant | triethylamine | 1.752 mmol, 0.244 ml, 177 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 17.52 mmol, 1997 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (S)-(4-Amino-3-fluorophenyl)(3-isopropylpiperazin-1-yl)methanone | 200 mg | NC1=C(C=C(C=C1)C(=O)N1C[C@@H](NCC1)C(C)C)F | C14H20FN3O
